US08293735B2
A solution of 4-bromo-1H-indole-6-carbonitrile (1 g, 4.50 mmol) in methanol (10 mL) was treated with 30% aqueous hydrogen peroxide (2.7 mL, 4.95 mmol) and a 1 M aqueous sodium hydroxide solution (5 mL) then heated at 40° C. for 1 h. The reaction mixture was cooled, treated with water and cooled in an ice-bath. The resulting precipitate was collected by filtration, washed with water and dried in vacuo to obtain 4-bromo-1H-indole-6-carboxylic acid amide (1.05 g, 97%), which was transformed into the title boronic ester by the general method (Scheme 1) (0.80 g, 67%).

reactant | 4-bromo-1H-indole-6-carbonitrile | 4.50 mmol, 1 g | BrC1=C2C=CNC2=CC(=C1)C#N | C9H5BrN2
reactant | hydrogen peroxide | 4.95 mmol, 2.7 mL | OO | H2O2
reactant | sodium hydroxide | 1 M, 5 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 4-bromo-1H-indole-6-carboxylic acid amide | 1.05 g, 97% | BrC1=C2C=CNC2=CC(=C1)C(=O)N | C9H7BrN2O
